US06969725B2
d] (2S)-3-(2-Chloro-4-hydroxy-phenyl)-2-ethoxy-propionic acid methyl ester
Dimethyl sulfide (5.8 ml, 79 mmol) and boron trifluoride diethyl etherate (46% purity, 4.3 ml, 16 mmol) were added to a ice cold solution of (2S)-3-(4-benzyloxy-2-chloro-phenyl)-2-ethoxy-propionic acid methyl ester (1.1 g, 3.2 mmol) in dichloromethane (34 ml) under an argon atmosphere. The mixture was stirred for 5 h at ambient temperature, poured into ice water/brine 1/1 and extracted two times with dichloromethane. The combined extracts were washed with ice water/brine 1/1 and dried over sodium sulfate. Removal of the solvent under reduced pressure gave a colorless oil which was purified by column chromatography (silica gel, cyclohexane/AcOEt) to yield 0.6 g (2.3 mmol, 74%) of the title compound as colorless oil.

reactant | Dimethyl sulfide | 79 mmol, 5.8 ml | CSC | C2H6S
reactant | boron trifluoride diethyl etherate | 16 mmol, 4.3 ml | B(F)(F)F.CCOCC
reactant | (2S)-3-(4-benzyloxy-2-chloro-phenyl)-2-ethoxy-propionic acid methyl ester | 3.2 mmol, 1.1 g | COC([C@H](CC1=C(C=C(C=C1)OCC1=CC=CC=C1)Cl)OCC)=O | C19H21ClO4
solvent | dichloromethane | 34 ml | ClCCl | CH2Cl2
product | (2S)-3-(2-Chloro-4-hydroxy-phenyl)-2-ethoxy-propionic acid methyl ester | 2.3 mmol, 0.6 g, 74% | COC([C@H](CC1=C(C=C(C=C1)O)Cl)OCC)=O | C12H15ClO4
